US07030115B2
N-{[4-({(1R)-3-(dimethylamino)-1-[(phenylthio)methyl]propyl}amino)-3-nitrophenyl]sulfonyl}-4-(4-nitrophenyl)piperazine-1-carboxamide
A solution of 4-({(1R)-3-(dimethylamino)-1-[(phenylthio)methyl]propyl}amino)-3-nitrobenzenesulfonamide (prepared according to the procedure described in commonly owned U.S. patent application Ser. No. 09/957,256, filed Sep. 20, 2001, 60 mg, 0.142 mmol) in dichloromethane (2 mL) at room temperature was treated with triethylamine (59 μL, 0.426 mmol) and p-nitrophenyl chloroformate (31 mg, 0.156 mmol), stirred for 2 hours, treated with 1-(4-nitrophenyl)-piperazine (35 mg, 0.169 mmol) and DMAP (17 mg, 0.142 mmol), stirred overnight, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 20% 2N NH3 in methanol/dichloromethane) to provide the desired product (40 mg, 43%). MS (ESI) m/e 658 (M+H)+; 1H NMR (500 MHz, CD3OD) δ 8.5–6.75 (12H, m), 4.16 (1H, m), 3.69 (2H, t), 3.59 (2H, br s), 3.47 (2H. br s), 3.37 (2H, br d), 3.24 (4H, m), 2.87 (6H, s), 2.35–2.15 (2H, m).

reactant | 4-({(1R)-3-(dimethylamino)-1-[(phenylthio)methyl]propyl}amino)-3-nitrobenzenesulfonamide | CN(CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-])C | C18H24N4O4S2
reactant | triethylamine | 0.426 mmol, 59 μL | C(C)N(CC)CC | C6H15N
reactant | p-nitrophenyl chloroformate | 0.156 mmol, 31 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1-(4-nitrophenyl)-piperazine | 0.169 mmol, 35 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.142 mmol, 17 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-{[4-({(1R)-3-(dimethylamino)-1-[(phenylthio)methyl]propyl}amino)-3-nitrophenyl]sulfonyl}-4-(4-nitrophenyl)piperazine-1-carboxamide | 40 mg, 43% | CN(CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C | C29H35N7O7S2
